US06096736
To a suspension of (5R)-5-((R)-2-heptyloxycarbonylmethyl)-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (33 g) in methanol (500 ml) is added a 5N aqueous sodium hydroxide solution (25.8 ml), and the mixture is heated with stirring at 40-50° C. for two hours. To the mixture is further added a 5N aqueous sodium hydroxide solution (15 ml), and the mixture is heated with stirring at 50° C. for three hours. The reaction solution is acidified with hydrochloric acid, and concentrated under reduced pressure to remove the methanol, and extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to remove the ethyl acetate. The resultant is crystallized from ethyl acetate--diethyl ether, washed with diethyl ether--n-hexane to give (5R)-5-carboxymethyl-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (21.1 g).

reactant | (5R)-5-((R)-2-heptyloxycarbonylmethyl)-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 33 g | C[C@H](CCCCC)OC(=O)C[C@H]1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)N2CCCC2)Cl)=O | C30H39ClN2O3
reactant | sodium hydroxide | 5N, 25.8 ml | [OH-].[Na+]
reactant | sodium hydroxide | 5N, 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
product | (5R)-5-carboxymethyl-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 21.1 g | C(=O)(O)C[C@H]1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)N2CCCC2)Cl)=O | C23H25ClN2O3
